US05332731
Preparation of pivaloyloxymethyl 7-[(Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-tetrahydrofurfurylthio-3-cephem-4-carboxylate
Sodium 7-[(Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-tetrahydrofurfurylthio-3-cephem-4-carboxylate (40 mg) was reacted with iodomethyl pivalate (38 mg), followed by purification, in the same manner as in Example 2 to give the titled compound (27 mg; 57%) as white powder.

reactant | Sodium 7-[(Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-tetrahydrofurfurylthio-3-cephem-4-carboxylate | 40 mg | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CC2CCCO2)C(=S)[O-])C1=O)=N/OC.[Na+]
reactant | iodomethyl pivalate | 38 mg | C(C(C)(C)C)(=O)OCI | C6H11IO2
product | pivaloyloxymethyl 7-[(Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-tetrahydrofurfurylthio-3-cephem-4-carboxylate | 27 mg, 57% | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CC2CCCO2)C(=S)OCOC(C(C)(C)C)=O)C1=O)=N/OC | C24H31N5O7S3
